US08492582B2
1,4-Dioxa-8-azaspiro[4,5]decane (0.12 mL), cesium carbonate (0.35 g), tris(dibenzylideneacetone)dipalladium(0) (3.3 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (8.5 mg), and palladium(II) acetate (1.6 mg) were added to a toluene (3.0 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate (0.20 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and then tris(dibenzylideneacetone)dipalladium(0) (3.3 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (8.5 mg), and palladium(II) acetate (1.6 mg) were added to the reaction mixture, followed by heating to reflux under a nitrogen atmosphere for 5 hours. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 90-65% hexane/ethyl acetate] to obtain 0.18 g of tert-butyl 2-(2-(benzyloxy)-5-(1,4-dioxa-8-azaspiro[4,5]decan-8-yl)benzamido)-4-phenylbenzoate.

reactant | 1,4-Dioxa-8-azaspiro[4,5]decane | 0.12 mL | O1CCOC12CCNCC2 | C7H13NO2
reactant | cesium carbonate | 0.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate | 0.20 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C31H28BrNO4
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 3.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 3.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 8.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 8.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl 2-(2-(benzyloxy)-5-(1,4-dioxa-8-azaspiro[4,5]decan-8-yl)benzamido)-4-phenylbenzoate | 0.18 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCC2(OCCO2)CC1 | C38H40N2O6
